US07157447B2
(5-Fluoro-2-methylphenyl)(morpholino)methanone.
To a solution of morpholine (870 mg, 10 mmol) and triethylamine (1.1 g, 10.8 mmol) in CH2Cl2 (15 mL) was added a solution of 5-fluoro-2-methylbenzoyl chloride (1.72 g, 10 mmol) in CH2Cl2 (5 mL), dropwise, and the mixture stirred for 15 min. The mixture was then washed with water, and the organic phase dried (MgSO4), filtered, and concentrated to obtain 2.19 g (Yield 98%) of the title compound as a solid: 1H NMR (500 MHz, CDCl3) δ ppm: 2.27 (3H, s) 3.24 (2H, d, J=4 Hz) 3.58 (2H, s) 3.79 (4H, dd, J=18, 3.8 Hz) 6.88 (1H, dd, J=8.2, 2.8 Hz) 6.92–7.05 (1H, m) 7.18 (1H, dd, J=8.4, 5.3 Hz).

reactant | morpholine | 10 mmol, 870 mg | N1CCOCC1 | C4H9NO
reactant | triethylamine | 10.8 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | 5-fluoro-2-methylbenzoyl chloride | 10 mmol, 1.72 g | FC=1C=CC(=C(C(=O)Cl)C1)C | C8H6ClFO
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (5-Fluoro-2-methylphenyl)(morpholino)methanone | 2.19 g, Yield 98% | FC=1C=CC(=C(C1)C(=O)N1CCOCC1)C | C12H14FNO2
